* D:\GitHub Repositories\Forward Converter\LT\Forward.asc
R13 N020 0 200k
Rdelay N018 0 100k
Rosc N015 0 301k
Rt Vref N013 11k
Rs N014 0 10m tol=1 pwr=1
L1 N010 IN 290µ Rser=13m
L2 N007 FWD 46.4µ Rser=7m
L5 FWD OUT 10µ Rser=6.33m
C2 OUT COM 660µ Rser=17.67m
R7 OUT VoutDiv 10k
R8 VoutDiv COM 1.36k
R1 N011 IN 240k
R2 0 N011 {240K/24}
V1 IN 0 48 AC 0
XU1 N016 FB N015 MP_01 N013 Vref N011 0 N020 N014 N014 N018 0 N012 Vu1 Sout LT1952-1
Rload OUT COM {5/9}
L4 0 N004 72.5µ Rser=10m
L3 IN N001 290µ Rser=16m
Rb N013 0 12.4k
C3 Vref 0 0.1µ
C4 N013 0 0.22µ
XU2 N019 N023 CG VccBias FG COM N017 N022 LTC3900
Rtmr VccBias N017 90.9k
Ctmr N017 COM 0.47n
Rcs1 FWD N019 365
Rcs2 COM N019 360
Rcs3 COM N023 182
L6 0 N021 300µ Rser=13m
L7 N022 COM 300µ Rser=7m
C5 N021 Sout 220pF
R3 COM N022 560
M1 N007 FG COM COM HAT2266
M2 FWD CG COM COM HAT2266
R11 COM 0 99Meg
M3 N010 N012 N014 N014 NMOS
D1 FWD N006 MBR0540
C6 N006 COM 0.1µ
R12 N006 N008 2k
D2 COM N008 KDZ7_5B
R14 N009 N008 10
Q1 N006 N009 VccBias 0 2SCR513P
C7 VccBias COM 4.7µ
D3 0 N001 D
D4 N004 N003 BAS16HM
C8 N002 0 0.1µ
Q2 N002 N005 Vu1 0 2SCR513P
R15 Vu1 IN 47k
R16 N005 IN 82k
D5 0 N005 UMZ12K
D6 0 Vu1 EDZV18B
C9 0 Vu1 33µF IC={-11}
R5 N003 N002 10
XU4 VccBias COM N029 VoutDiv N030 N025 LT4430
C1 VoutDiv N030 10p
C10 VoutDiv N027 2.2n
R4 N027 N030 8.2k
C11 COM VccBias 1µ
C12 N029 COM 33n
R6 N025 N024 330
R9 N028 FB 22k
R10 N016 FB 33k
R17 N028 0 1.2k
Q3 0 Vref N028 0 BC856B
C13 COM 0 2.2nF
R18 Vu1 N026 220
XU5 N024 COM N026 N028 PC817 Igain=1m
.model D D
.lib C:\Users\Furkan\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Furkan\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Furkan\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 15m 0 10e-6 startup
K1 L1 L2 1
K2 L1 L3 1
K3 L1 L4 1
K4 L2 L3 1
K5 L2 L4 1
K6 L3 L4 1
K7 L6 L7 1
* L1 - Primer\nL2 - Seconder\nL3 - Aux\nL4 - Reset
.model HAT2266 VDMOS(Rg=0.5 Vto=2.3 Rd=4m Rs=1m Rb=5m Kp=70 lambda=.05 Cgdmax=0.65n Cgdmin=.08n Cgs=3.455n Cjo=1.2n Is=120p ksubthres=.1 mfg=Furkan Vds=60 Ron=12m Qg=25n)
.model NMOS VDMOS(Rg=3 Rd=1.2m Rs=.9m Vto=1.2 Kp=50 Cgdmax=2n Cgdmin=.25n Cgs=3.3n Cjo=1n Is=100p Rb=1.5m ksubthres=.1 mfg=Siliconix Vds=20 Ron=3m Qg=50n)
.lib LT1952-1.sub
.lib LT4430.sub
.lib LTC3900.sub
.lib PC817.sub
.backanno
.end
